US05849732
Triethylamine (13.3 ml) was added dropwise to a mixture of 5 g of bis(2-hydroxyethyl)amine, 14.3 g of tert-butyl-dimethylsilyl chloride and 100 ml of dimethylformamide (DMF). A catalytic amount of 4-dimethylaminopyridine was added to the mixture and the resulting mixture was stirred for 5 hours. Then, the mixture was diluted with ethyl acetate. The diluted mixture was washed and dried, and the solvent was removed under reduced pressure. To the obtained residue were added 10.6 g of 3-(N-benzyloxycarbonylamino)-propionic acid, 7.1 g of 1-hydroxybenzotriazole and 100 ml of DMF, and under ice-cooling, 10.8 g of 1,3-dicyclohexylcarbodiimide (DCC) was added to the mixture. The resulting mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate, and insoluble materials were removed from the mixture by filtration. The filtrate was washed and dried, and the solvent was removed under reduced pressure. The residue was applied to silica gel column chromatography (solvent; hexane:ethyl acetate=4:1). The condensed eluate was dissolved in 200 ml of methanol, and 1 g of 10% palladium-carbon (Pd-C) was added to the solution. The mixture was subjected to catalytic reduction at normal temperature under normal pressure for 0.5 hour. The catalyst was filtered off, and the filtrate was condensed to give 11.4 g of {2-[bis(2-tert-butyldimethylsilyloxyethyl)amino]carbonylethyl}amine (yield: 59%) as a colorless oily product.

reactant | Triethylamine | 13.3 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-hydroxyethyl)amine | 5 g | OCCNCCO | C4H11NO2
reactant | tert-butyl-dimethylsilyl chloride | 14.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-[bis(2-tert-butyldimethylsilyloxyethyl)amino]carbonylethyl}amine | 11.4 g, yield: 59% | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)CCN)CCO[Si](C)(C)C(C)(C)C | C19H44N2O3Si2
